US07652022B2
4-(2-Trifluoromethyl-pyridin-4-yloxy)-phenylamine
A suspension of 4-(4-nitro-phenoxy)-2-trifluoromethyl-pyridine (1.16 g, 4.08 mmol) and Raney Nickel (0.4 9, in EtOH) in MeOH (70 mL) is stirred at rt and under a hydrogen atmosphere for 7 h. Additional Raney Nickel (tip of spatula) is then added and the reaction mixture is stirred for 17 h. The mixture is filtered through a pad of celite and the filter cake is washed with copious amount of MeOH. After removal of the solvents in vacuo, the residue is purified by silica gel (50 g) column chromatography (CH2Cl2/Et2O, 95/5) to afford the title compound as a white solid: ES-MS: 255.0 [M+H]+; single peak at tR=5.97 min (System 2); Rf=0.40 (CH2Cl2/Et2O, 90/10).

reactant | 4-(4-nitro-phenoxy)-2-trifluoromethyl-pyridine | 4.08 mmol, 1.16 g | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)C(F)(F)F)C=C1 | C12H7F3N2O3
catalyst | Raney Nickel | [Ni] | Ni
solvent | MeOH | 70 mL | CO | CH4O
product | 4-(2-Trifluoromethyl-pyridin-4-yloxy)-phenylamine | FC(C1=NC=CC(=C1)OC1=CC=C(C=C1)N)(F)F | C12H9F3N2O
